US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2,2-dimethylpropane-1,3-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2,2-dimethylpropane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (d, J=1.2 Hz, 1 H), 7.99 (s, 1 H), 7.88 (d, J=7.2 Hz, 1 H), 7.73-7.70 (m, 2 H), 7.61-7.57 (m, 2 H), 6.07 (s, 1 H), 5.31 (s, 2 H), 4.50 (s, 2 H), 3.73 (s, 2 H), 3.49 (s, 2 H), 2.99 (s, 2 H), 2.47 (s, 3 H), 1.10 (s, 6 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2,2-dimethylpropane-1,3-diamine | CC(CN)(CN)C | C5H14N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2,2-dimethylpropane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC(CN)(C)C)C)=O | C24H30N4O2S
